US08222408B2
Stage 2: Preparation of 3,4-dihydro-3-methyl-2H-1,4-benzoxazine (3-MBM) without Preceding Crystallization and without pH Adjustment and at Lower Pressure of 150 bar at Higher Temperature of 80° C.
Reaction conditions: 150 bar of hydrogen, reaction temperature 80° C. with a residence time of about 60-90 minutes. The space velocity was about 2 g of o-nitrophenoxyacetone per g of catalyst used and hour. The catalyst used was a sponge metal catalyst from H. C. Starck, Amperkat Ni—Mo 3706 (exchange of the water under which the catalyst is stored for methanol). The yield was 90%; 42 g of nitrophenoxyacetone were converted per gram of theoretically dry catalyst. Thereafter, the hydrogenation had to be stopped owing to the massive formation of secondary components (in particular of the 3MBM dimer). Good mixing was ensured by stirring. In order to prevent precipitation of the reactant solution, it was heated to 40° C.

reactant | hydrogen | [H][H] | H2
reactant | o-nitrophenoxyacetone | about 2 g | [N+](=O)([O-])C1=C(OCC(C)=O)C=CC=C1 | C9H9NO4
reactant | water | O | H2O
reactant | nitrophenoxyacetone | 42 g | [N+](=O)([O-])C(C(C)=O)OC1=CC=CC=C1 | C9H9NO4
solvent | methanol | CO | CH4O
product | 3,4-dihydro-3-methyl-2H-1,4-benzoxazine | CC1COC2=C(N1)C=CC=C2 | C9H11NO
